US08835420B2
2,4-Diamino-6-((1-(6-(4-hydroxy-4-methylpiperidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile
To a 10 mL vial were added 1-(5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-4-methylpiperidin-4-ol (56 mg, 0.194 mmol), 2,4-diamino-6-chloropyrimidine-5-carbonitrile (32.9 mg, 0.194 mmol) and Et3N (0.054 mL, 0.388 mmol) in DMF (3 mL). The resulting yellow solution was heated to 90° C. and stirred overnight. The reaction mixture was purified by preparative HPLC eluting with 5-30% ACN in water (with 0.05% ammonium carbonate). The fractions containing the desired product were combined and lyophilized to give the title compound (racemate) as a white solid (40 mg, 49%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.17-1.29 (m, 3 H), 1.32-1.43 (m, 3 H), 1.52-1.87 (m, 4 H), 2.57-2.72 (m, 2 H), 2.73-2.94 (m, 2 H), 3.16-3.29 (m, 1 H), 3.71-3.86 (m, 3 H), 4.24-4.32 (m, 1 H), 5.74-5.88 (m, 1 H), 6.34-6.44 (m, 2 H), 6.44-6.52 (m, 1 H), 6.53-6.65 (m, 3 H), 7.48-7.58 (m, 1 H), 7.77-7.84 (m, 1 H); ESI-MS m/z [M+H]+ calc'd for C21H27N9O, 422.2; found 422.5.

reactant | 1-(5-(1-aminoethyl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-6-yl)-4-methylpiperidin-4-ol | 0.194 mmol, 56 mg | NC(C)C1=C(C=C2C(=N1)C=CN2C)N2CCC(CC2)(O)C | C16H24N4O
reactant | 2,4-diamino-6-chloropyrimidine-5-carbonitrile | 0.194 mmol, 32.9 mg | NC1=NC(=C(C(=N1)N)C#N)Cl | C5H4ClN5
reactant | Et3N | 0.388 mmol, 0.054 mL | CCN(CC)CC | C6H15N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | 2,4-Diamino-6-((1-(6-(4-hydroxy-4-methylpiperidin-1-yl)-1-methyl-1H-pyrrolo[3,2-b]pyridin-5-yl)ethyl)amino)pyrimidine-5-carbonitrile | 40 mg, 49% | NC1=NC(=C(C(=N1)N)C#N)NC(C)C1=C(C=C2C(=N1)C=CN2C)N2CCC(CC2)(C)O | C21H27N9O
